US06316467B1
4- [(Aminothioxomethyl)-hydrazono]-N-benzyl-4-phenylbutanamide
Thiosemicarbazide (2.30 g, 25.2 mmol) was added to a solution of N-benzyl-4-oxo-4-phenyl-butyramide (4.12 g, 15.4 mmol), prepared in the previous step, in 100 ml of methanol plus 4.2 ml of 1 N HCl plus 4.2 ml of water and the reaction stirred at room temperature for 20 hours. The reaction was cooled in an ice bath and a white solid precipitated. The solid was collected by filtration and dried to give 4.61 g of a white solid. Recrystallization of the solid from ethyl acetate-methanol gave the title compound (2.05 g, 39%) as a white solid, mp 162-164° C.

reactant | Thiosemicarbazide | 25.2 mmol, 2.30 g | NNC(=S)N | CH5N3S
reactant | N-benzyl-4-oxo-4-phenyl-butyramide | 15.4 mmol, 4.12 g | C(C1=CC=CC=C1)NC(CCC(C1=CC=CC=C1)=O)=O | C17H17NO2
reactant | HCl | 1 N, 4.2 ml | Cl | ClH
reactant | water | 4.2 ml | O | H2O
solvent | methanol | 100 ml | CO | CH4O
product | 4- [(Aminothioxomethyl)-hydrazono]-N-benzyl-4-phenylbutanamide | 4.61 g | NC(=S)NN=C(CCC(=O)NCC1=CC=CC=C1)C1=CC=CC=C1 | C18H20N4OS
